Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:7].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-4.43022168712
[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],4.81790785642
[H:1][C:2]1[C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[O:11]1>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[O:11],-0.2282871830999999
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],4.75458829407
[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.13634969228
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.315065924740001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([O:11][H:12])[C:13]([H:14])([H:15])[H:16],4.13042700181
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],1.94672524721
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.1156357300909999
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.5150574744499998
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.3900974945
[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],4.39556215309
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:3][H:4],4.02484687816
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.5849434138
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.3121448871900006
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],3.50898536829
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]#[C:11][H:12],1.8803669769
[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-4.420827262
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-7.02331454725
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6](/[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],4.844911928219999
[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:12]([H:13])([H:14])[H:15],1.40302387761
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[H:13],2.02168411977
[O:1]=[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-0.8871874684200001
[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-2.21536176
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],1.32087373166
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[C:10]([H:11])[O:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],6.60770285578
[C:1]#[C:2][C:3][O:4][H:5]>>[C:1].[C:2]#[C:3][O:4][H:5],6.43350704296
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],1.5649033096399998
